US06608101B1
To a solution of 3-[5-(benzo[b]thien-2-yl)2,4-dimethoxyphenyl]-1-(4-tert-butyldimethyl-siloxy-3,5-dimethoxyphenyl)-2-propen-1-one, from Ex-59B, (0.135 g, 0.228 mmol) in tetrahydrofuran (2 mL) was added tetrabutylammonium fluoride (0.061 g. 0.228 mmol), and the mixture was stirred at room temperature for two hours. Upon quenching with water, the mixture was extracted with dichloromethane. The organic phase was dried and evaporated. Silica gel chromatography (hexane/ethyl acetate, 1:1) gave 0.05 g (46%) of the desired 3-[5-(benzo[b]thien-2-yl)2,4-dimethoxyphenyl]-1-(4-hydroxy-3,5-dimethoxy-phenyl)-2-propen 1-one product as a yellow solid, m.p. 85-105° C.

reactant | 3-[5-(benzo[b]thien-2-yl)2,4-dimethoxyphenyl]-1-(4-tert-butyldimethyl-siloxy-3,5-dimethoxyphenyl)-2-propen-1-one | S1C2=C(C=C1C=1C(=CC(=C(C1)C=CC(=O)C1C(=C(C(=C(C1(C)C)OC)C(C)(C)C)OC)O[SiH3])OC)OC)C=CC=C2 | C33H40O6SSi
reactant | tetrabutylammonium fluoride | 0.228 mmol, 0.061 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 3-[5-(benzo[b]thien-2-yl)2,4-dimethoxyphenyl]-1-(4-hydroxy-3,5-dimethoxy-phenyl)-2-propen 1-one | 0.05 g, 46% | S1C2=C(C=C1C=1C(=CC(=C(C1)C=CC(=O)C1=CC(=C(C(=C1)OC)O)OC)OC)OC)C=CC=C2 | C27H24O6S
